US08049006B2
4-chloro-3-{[(ethylamino)carbonyl]amino}benzenesulfonamide (Compound S66)
To 3-amino-4-chlorobenzenesulfonamide (420 mg) in tetrahydrofuran (2 ml) solution, ethylisocyanate (180 μl) was added and the mixture was stirred under heating and reflux for 15 hours. The reaction solution was concentrated, then the residue was recrystallized from chloroform/methanol to obtain the title compound as a crude product (550 mg).

reactant | 3-amino-4-chlorobenzenesulfonamide | 420 mg | NC=1C=C(C=CC1Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | ethylisocyanate | 180 μl | C(C)N=C=O | C3H5NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-chloro-3-{[(ethylamino)carbonyl]amino}benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N)NC(=O)NCC | C9H12ClN3O3S
